US04495354
114.5 g of 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone was placed into a 2-l. beaker and dissolved in 500 ml of absolute ethanol. The solution was stirred (mechanical stirrer) in an icebath, while 150.0 g of 48% aqueous hydrobromic acid was added dropwise from a dropping funnel at such a rate that the temperature did not exceed 25°. The resulting slurry was stirred in the icebath for 30 minutes. The precipitate was collected by filtration, washed with 2×175 ml portions of ice cold absolute ethanol and dried in vacuo (0.1 mm, 20°, const. weight) to yield 132.5 g of 1(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone hydrobromide as white crystals, m.p. 225°-226°. The filtrate was concentrated on a rotavap (50°, 15 mm) and the residual paste dissolved in 110 ml of absolute ethanol at reflux. The solution was stirred in an ice bath for 30 minutes. The precipitate collected by filtration, washed with 2×60 ml portions of ice cold absolute ethanol and dried (0.1 mm, 20°, const. weight) to yield a second crop of 14.5 g of 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone hydrobromide as white crystals, m.p. 219°-221°.

reactant | 1-(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone | 114.5 g | CN1CC(=CCC1)C(C)=O | C8H13NO
reactant | hydrobromic acid | 150.0 g | Br | BrH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1(1,2,5,6-tetrahydro-1-methyl-3-pyridinyl)ethanone hydrobromide | 132.5 g | Br.CN1CC(=CCC1)C(C)=O | InChI=1S/C8H13NO.BrH/c1-7(10)8-4-3-5-9(2)6-8;/h4H,3,5-6H2,1-2H3;1H
